US08084490B2
Chroman-2-carboxylic acid (4.3 g, 24 mmol) in THF (70 mL) was combined with 1M LAH in THF (30 mL, 30 mmol) and stirred at room temperature for 2 h. The reaction mixture was quenched with water and then stirred for 2 hours. The THF solution was decanted from the solid, which was washed with fresh THF. The combined THF solution was dried (Na2SO4) and evaporated in vacuo to yield chroman-2-yl-methanol as an oil.

reactant | Chroman-2-carboxylic acid | 24 mmol, 4.3 g | O1C(CCC2=CC=CC=C12)C(=O)O | C10H10O3
reactant | LAH | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mmol, 30 mL | C1CCOC1 | C4H8O
product | chroman-2-yl-methanol | O1C(CCC2=CC=CC=C12)CO | C10H12O2
